US08053457B2
(4-Phenyl-piperazin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 1-Phenyl-piperazine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a white solid; ES-MS: M+=202.2: AtRet=1.95.

reactant | 1-Phenyl-piperazine | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Phenyl-piperazin-1-yl)-acetonitrile | C1(=CC=CC=C1)N1CCN(CC1)CC#N | C12H15N3
